US06683201B2
A solution of 6.56 g (29.4 mmol) of (4-Hydroxy-phenyl)-methyl-carbamic acid tert-butyl ester dissolved in 250 ml of acetone was treated with 12.2 g (88.1 mmol) of K2CO3 and 13.4 ml (88.1 mmol) of 1,6-dibromohexane. The suspension was heated under reflux overnight, cooled, filtered and concentrated. Purification by flash chromatography on silica gel with toluene/EtOAc (95:5) as eluent yielded 9.79 g (86%) of [4-(6-Bromo-hexyloxy)-phenyl]-methyl-carbamic acid tert-butyl ester, MS: 386 (MH+, 1Br).

reactant | (4-Hydroxy-phenyl)-methyl-carbamic acid tert-butyl ester | 29.4 mmol, 6.56 g | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)O)=O | C12H17NO3
reactant | K2CO3 | 88.1 mmol, 12.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,6-dibromohexane | 88.1 mmol, 13.4 ml | BrCCCCCCBr | C6H12Br2
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | [4-(6-Bromo-hexyloxy)-phenyl]-methyl-carbamic acid tert-butyl ester | 9.79 g, 86% | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)OCCCCCCBr)=O | C18H28BrNO3
